US08492391B2
2,6-dichloro-9-cyclohexylpurine
2,6-Dichloropurine (1 mmol), powdered potasium carbonate (1 mmol) and cyclohexyliodide (4 mmol) were vigorously stirred in 5 mL DMSO overnight. After evaporation of the solvent the product was extracted (water/diethylether) and purified by column chromatography (silicagel/1% MeOH in CHCl3). Crystallization from methanol gave the product in yield 41%, mp 116-121° C.

reactant | 2,6-Dichloropurine | 1 mmol | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | potasium carbonate | 1 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | cyclohexyliodide | 4 mmol | C1(CCCCC1)I | C6H11I
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 2,6-dichloro-9-cyclohexylpurine | yield 41% | ClC1=NC(=C2N=CN(C2=N1)C1CCCCC1)Cl | C11H12Cl2N4
